US09085555B2
B. (1R,3S,5R)-3-(Toluene-4-sulfonyloxymethyl)-2-aza-bicyclo[3.1.0]hexane-2-carboxylic acid tert-butyl ester
To an ice-cooled solution of (1R,3S,5R)-3-hydroxymethyl-2-aza-bicyclo[3.1.0]hexane-2-carboxylic acid tert-butyl ester (0.480 g, 2.15 mmol) in pyridine (5 mL) was added 4-toluenesulfonyl chloride (0.490 g, 2.58 mmol). The reaction mixture was stirred at RT for 6 h and then diluted with Et2O. The organic phase was washed with 1N HCl (3×), aqueous NaHCO3 (3×) and NaCl, then dried (phase separator) and concentrated under reduced pressure. The residue was purified by flash column chromatography on silica gel (eluent gradient: c-hexane to c-hexane/EtOAc 4:1) to afford the title compound as a colorless wax. TLC, Rf (c-hexane/EtOAc 4:1)=0.2. MS (LC-MS): 390.0 [M+Na]+, 757.0 [2M+H]+. tR (HPLC conditions k): 4.07 min.

reactant | (1R,3S,5R)-3-hydroxymethyl-2-aza-bicyclo[3.1.0]hexane-2-carboxylic acid tert-butyl ester | 2.15 mmol, 0.480 g | C(C)(C)(C)OC(=O)N1[C@@H]2C[C@@H]2C[C@H]1CO | C11H19NO3
reactant | 4-toluenesulfonyl chloride | 2.58 mmol, 0.490 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
solvent | pyridine | 5 mL | N1=CC=CC=C1 | C5H5N
solvent | Et2O | CCOCC | C4H10O
product | (1R,3S,5R)-3-(Toluene-4-sulfonyloxymethyl)-2-aza-bicyclo[3.1.0]hexane-2-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1[C@@H]2C[C@@H]2C[C@H]1COS(=O)(=O)C1=CC=C(C=C1)C | C18H25NO5S
